US08039460B2
1-(1-{[6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one
Triethylamine (146 μL, 1.044 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (69 mg, 0.358 mmol), and 1-hydroxy-7-azabenzotriazole (41 mg, 0.298 mmol) were added to a solution of the hydrochloride salt of [6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetic acid (127 mg, 0.298 mmol) and 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride (87 mg, 0.298 mmol) in acetonitrile (3 mL) and N,N-dimethylformamide (1 mL). After 4 h, the reaction mixture was diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate, washed with saturated brine, dried with sodium sulfate, filtered and concentrated to give the title compound. Purification by reverse phase HPLC (100% water→100% acetonitrile with 0.1% trifluoroacetic acid) gave racemic cis compounds 1-(1-{[(6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one and 1-(1-{[(6R,9S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one; MS 590.2299 (M+1), and racemic trans compounds 1-(1-{[(6S,9S)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one and 1-(1-{[(6R,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one; MS 590.2293 (M+1). The trans enantiomers were separated by Chiralpak OD column (2×35 cm), 60% hexanes (0.1% diethylamine)/ethanol at 6 mL/min.

reactant | Triethylamine | 1.044 mmol, 146 μL | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.358 mmol, 69 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxy-7-azabenzotriazole | 0.298 mmol, 41 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | [6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetic acid | 0.298 mmol, 127 mg | FC1=C(C=CC=C1F)C1CCC(C=2N(C1)C(=NN2)CC(F)(F)F)CC(=O)O | C17H16F5N3O2
reactant | 2-oxo-1-piperidinium-4-yl-2,3-dihydro-1H-imidazo[4,5-b]pyridin-4-ium dichloride | 0.298 mmol, 87 mg | [Cl-].[Cl-].O=C1N(C=2C(=[NH+]C=CC2)N1)C1CC[NH2+]CC1
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(1-{[6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]acetyl}piperidin-4-yl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | FC1=C(C=CC=C1F)C1CCC(C=2N(C1)C(=NN2)CC(F)(F)F)CC(=O)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C28H28F5N7O2
